US07897619B2
tert-Butyl 2-(5-((S)-2-amino-3-(1H-indol-3-yl)propylamino)-3-(isoquinolin-6-yl)isoxazol-4-yl)ethylcarbamate:
This compound was synthesized in an analogous manner to Example 32 but using tert-butyl 3-cyanopropylcarbamate instead of acetonitrile in the preparation of 2-propen-1-yl (4-(2-((tert-butoxycarbonyl)amino)ethyl)-3-(6-isoquinolinyl)-5-isoxazolyl)carbamate according to Scheme 6 instead of allyl 3-(isoquinolin-6-yl)isoxazol-5-ylcarbamate. MS m/z: 527 (M+1); 1H NMR (400 MHz, CD3OD) δ ppm 9.75 (s, 1H), 8.63 (d, J=6.26 Hz, 1H), 8.51-8.57 (m, 3H), 8.20 (d, J=8.61 Hz, 1H), 7.61 (d, J=8.02 Hz, 1H), 7.40 (d, J=8.22 Hz, 1H), 7.26-7.29 (m, 1H), 7.15 (t, J=7.53 Hz, 1H), 7.08 (t, J=7.43 Hz, 1H), 3.73-3.86 (m, 3H), 3.13-3.24 (m, 4H), 2.62 (t, J=6.94 Hz, 2H), 1.33 (s, 9H).

reactant | tert-butyl 3-cyanopropylcarbamate | C(#N)CCCNC(OC(C)(C)C)=O | C9H16N2O2
reactant | 2-propen-1-yl (4-(2-((tert-butoxycarbonyl)amino)ethyl)-3-(6-isoquinolinyl)-5-isoxazolyl)carbamate | C(C)(C)(C)OC(=O)NCCC=1C(=NOC1NC(OCC=C)=O)C=1C=C2C=CN=CC2=CC1 | C23H26N4O5
reactant | allyl 3-(isoquinolin-6-yl)isoxazol-5-ylcarbamate | C1=NC=CC2=CC(=CC=C12)C1=NOC(=C1)NC(OCC=C)=O | C16H13N3O3
product | tert-Butyl 2-(5-((S)-2-amino-3-(1H-indol-3-yl)propylamino)-3-(isoquinolin-6-yl)isoxazol-4-yl)ethylcarbamate | N[C@H](CNC1=C(C(=NO1)C=1C=C2C=CN=CC2=CC1)CCNC(OC(C)(C)C)=O)CC1=CNC2=CC=CC=C12 | C30H34N6O3
